US07834013B2
Enantiomerically Enriched-(trans)-ethyl-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylate (III-2f)
Sodium triacetoxyborohydride (0.424 g, 2.00 mmol) was added to a solution of the enantiomerically enriched-(trans)-ethyl-2-(4-amino-2-chlorophenyl)cyclopropanecarboxylate (III-1d) (0.191 g, 0.80 mmol) and 3-phenoxybenzaldehyde (0.160 g, 0.80 mmol) in 8 mL of dichloroethane. The mixture was stirred at room temperature for one hour. The reaction mixture was partitioned between chloroform and water. The organic phase was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, the solvent evaporated and the residue purified by chromatography on silica gel with hexane:ethyl acetate to give 0.269 g (80% yield) of the title compound as a colorless oil. NMR (400 MHz, CDCl3) δ 7.32 (t, J=7.51 Hz, 2H), 7.28 (t, J=8.42 Hz, 1H), 7.10 (t, J=8.24 Hz, 1H), 7.06 (d, J=8.24 Hz, 1H), 6.99 (d, J=7.69 Hz, 2H), 6.98 (m, 1H), 6.90 (dd, J=8.06 Hz, 2.38 Hz, 1H) 6.79 (d, J=8.42 Hz, 1H), 6.61 (d, J=2.38 Hz, 1H), 6.40 (dd, J=8.42 Hz, 2.38 Hz, 1H), 4.25 (d, J=5.49 Hz, 2H), 4.19 (q, J=7.14 Hz, 2H), 4.12 (br s, 1H), 2.60 (m, 1H), 1.69 (m, 1H), 1.53 (m, 1H), 1.28 (t, J=7.14 Hz, 3H), 1.25 (m, 1H). ES-MS m/z 422 (MH)+.

reactant | Sodium triacetoxyborohydride | 2.00 mmol, 0.424 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (trans)-ethyl-2-(4-amino-2-chlorophenyl)cyclopropanecarboxylate | 0.80 mmol, 0.191 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=C(C=C(C=C1)N)Cl | C12H14ClNO2
reactant | 3-phenoxybenzaldehyde | 0.80 mmol, 0.160 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | (trans)-ethyl-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylate | 0.269 g, 80% yield | C(C)OC(=O)[C@H]1[C@@H](C1)C1=C(C=C(C=C1)NCC1=CC(=CC=C1)OC1=CC=CC=C1)Cl | C25H24ClNO3
